US05089423
Cortisol ovalbumin was prepared by the mixed anhydride method. 50 mg (0.1 mmoles) of hydrocortisone 21-hemisuccinate were dissolved in 10 mL dixane and 0.1 mL tri-n-butylamine added. The solution was cooled to 10° C., 0.02 mL isobutyl chloroformate added and the mixture stirred for 30 min. Then, 500 mg of ovalbumin (0.01 mmoles) dissolved in 10 mL of water adjusted to pH 9 with NaOH were added to the reaction mixture and stirred 24 h at 4° C. After the reaction was completed, a precipitate was present. The mixture was dialyzed 36 h against water and the precipitate was removed by centrifugation. Urea was added to the supernatant to achieve a concentration of 6M and this solution was again dialyzed exhaustively against water. The protein concentration was determined by the Bio-Rad Protein Assay.

reactant | hydrocortisone 21-hemisuccinate | 0.1 mmoles, 50 mg | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@H](C[C@]4([C@H]3CC[C@@]4(C(=O)COC(=O)CCC(=O)OCC(=O)[C@]5(CC[C@@H]6[C@@]5(C[C@@H]([C@H]7[C@H]6CCC8=CC(=O)CC[C@]78C)O)C)O)O)C)O | C46H62O12
reactant | isobutyl chloroformate | 0.02 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaOH | [OH-].[Na+]
solvent | tri-n-butylamine | 0.1 mL | C(CCC)N(CCCC)CCCC | C12H27N
solvent | water | 10 mL | O | H2O
product | Cortisol | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2[C@H](C[C@]4([C@H]3CC[C@@]4(C(=O)CO)O)C)O | C21H30O5
